US07964607B2
6-{(3S,4S)-4-methyl-1-[(6-methylpyridin-2-yl)methyl]pyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one
Following the procedure for the preparation of 6-{(3S,4S)-4-methyl-1-[(2-methylpyrimidin-5-yl)methyl]pyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one but substituting sodium cyanoborohydride and 6-methylpicolinaldehyde provided the title compound. 400 MHz 1H NMR (CDCl3) δ 8.02 (s, 1H), 7.57 (t, J=7.7 Hz, 1H), 7.20 (d, J=7.9 Hz, 1H), 7.03 (d, J=7.5 Hz, 1H), 4.83-4.77 (m, 1H), 4.13-4.08 (m, 2H), 3.99-3.95 (m, 1H), 3.72-3.69 (m, 1H), 3.62-3.54 (m, 2H), 3.42 (t, J=8.3 Hz, 1H), 3.06 (d, J=9.9 Hz, 1H), 2.85-2.83 (m, 1H), 2.64-2.57 (m, 1H), 2.55 (s, 3H), 2.44-2.29 (m, 3H), 2.08-2.03 (m, 1H), 1.91-1.82 (m, 2H), 1.20 (t, J=7.1 Hz, 3H). MS: (M+H m/z 409.1).

reactant | 6-{(3S,4S)-4-methyl-1-[(2-methylpyrimidin-5-yl)methyl]pyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | C[C@H]1[C@@H](CN(C1)CC=1C=NC(=NC1)C)C=1NC(C2=C(N1)N(N=C2)C2CCOCC2)=O | C21H27N7O2
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | 6-methylpicolinaldehyde | CC1=CC=CC(=N1)C=O | C7H7NO
product | 6-{(3S,4S)-4-methyl-1-[(6-methylpyridin-2-yl)methyl]pyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | C[C@H]1[C@@H](CN(C1)CC1=NC(=CC=C1)C)C=1NC(C2=C(N1)N(N=C2)C2CCOCC2)=O | C22H28N6O2
